US08084448B2
D. 1-Oxo-1,2,3,4-tetrahydronaphtho[1,8-cd]azepine-3-carboxylic Acid Methyl Ester
A solution of 1-oxo-1,2-dihydronaphtho[1,8-cd]azepine-3-carboxylic acid methyl ester (129 mg, 0.5 mmol) in EtOAc (5 mL) is hydrogenated at 1 atm over 10% Pd/C (35 mg) for 18 h. The catalyst is filtered, the solvent is removed under reduced pressure and the residue purified by flash chromatography using a gradient of 0-50% EtOAc/hexane as eluent to give the title compound.

reactant | 1-oxo-1,2-dihydronaphtho[1,8-cd]azepine-3-carboxylic acid methyl ester | 0.5 mmol, 129 mg | COC(=O)C=1CC(C2=CC=CC3=C2C1C=NC=C3)=O | C15H11NO3
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 35 mg | [Pd] | Pd
product | 1-Oxo-1,2,3,4-tetrahydronaphtho[1,8-cd]azepine-3-carboxylic Acid Methyl Ester | COC(=O)C1CC(C2=CC=CC=3C2=C1CN=CC3)=O | C15H13NO3
